### PR TITLE
feat: define ω-map on surreals

### PR DESCRIPTION
**Pull request by vihdzp**
We define the map `ω^ x` on surreals, prove that it's strictly monotonic, and prove that `ω^ (x + y) ≈ ω^ x * ω^ y`.

There's still more stuff I want to do with this, check the TODO!

### CODE REVIEW

File: CombinatorialGames/Surreal/Pow.lean [hunk 1]
```diff
@@ -0,0 +1,406 @@
...
+theorem zero_mem_leftMoves_wpow (x : IGame) : 0 ∈ leftMoves (ω^ x) := by
+  simp [leftMoves_wpow]
+
+theorem mul_wpow_mem_leftMoves_wpow {x y : IGame} {r : Dyadic} (hr : 0 ≤ r)
+    (hy : y ∈ x.leftMoves) : r * ω^ y ∈ leftMoves (ω^ x) := by
+  obtain rfl | hr := hr.eq_or_lt
+  · simp
+  · rw [leftMoves_wpow]
+    apply mem_insert_of_mem
+    use r, hr, y, hy
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Pow.lean]:
```suggestion
    use r, hr, y
```

File: CombinatorialGames/Surreal/Pow.lean [hunk 2]
```diff
@@ -0,0 +1,406 @@
...
+
+theorem mul_wpow_mem_rightMoves_wpow {x y : IGame} {r : Dyadic} (hr : 0 < r)
+    (hy : y ∈ x.rightMoves) : r * ω^ y ∈ rightMoves (ω^ x) := by
+  rw [rightMoves_wpow]
+  use r, hr, y, hy
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Pow.lean]:
```suggestion
  use r, hr, y
```

File: CombinatorialGames/Surreal/Pow.lean [hunk 3]
```diff
@@ -0,0 +1,406 @@
...
+termination_by x
+decreasing_by igame_wf
+
+@[simp]
+theorem wpow_pos (x : IGame) [Numeric x] : 0 < ω^ x := wpow_pos' x
+
+theorem mul_wpow_lt_wpow (r : ℝ) (h : x < y) : r * ω^ x < ω^ y := by
+  obtain hr | hr := le_or_gt r 0
+  · apply (Numeric.mul_nonpos_of_nonpos_of_nonneg _ (wpow_pos x).le).trans_lt (wpow_pos y)
+    simpa
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Pow.lean]:
```suggestion
    exact Real.toIGame_le_zero.mpr hr
```

File: CombinatorialGames/Surreal/Pow.lean [hunk 4]
```diff
@@ -0,0 +1,406 @@
...
+    (hx : x < y) (hy : x < z) : r * ω^ x < s * ω^ y + t * ω^ z := by
+  have hs : (0 : ℝ) < s := by simpa
+  have ht : (0 : ℝ) < t := by simpa
+  simpa [← Surreal.mk_lt_mk] using mul_wpow_lt_mul_wpow_add_mul_wpow r hs ht hx hy
+
+@[simp]
+theorem wpow_lt_wpow : ω^ x < ω^ y ↔ x < y := by
+  constructor
+  · contrapose
+    simp_rw [Numeric.not_lt]
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Pow.lean]:
```suggestion
    repeat rw [Numeric.not_lt]
```

File: CombinatorialGames/Surreal/Pow.lean [hunk 5]
```diff
@@ -0,0 +1,406 @@
...
+    exact wpow_strictMono_aux.2
+  · simpa using mul_wpow_lt_wpow' 1
+
+@[simp]
+theorem wpow_le_wpow : ω^ x ≤ ω^ y ↔ x ≤ y := by
+  rw [← Numeric.not_lt, wpow_lt_wpow, Numeric.not_lt]
+
+theorem wpow_congr (h : x ≈ y) : ω^ x ≈ ω^ y := by
+  simp_all [AntisymmRel]
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Pow.lean]:
```suggestion
  simpa [AntisymmRel] using h
```

File: CombinatorialGames/Surreal/Pow.lean [hunk 6]
```diff
@@ -0,0 +1,406 @@
...
+## Todo
+
+- Prove that `ω^ x` matches ordinal exponentiation for ordinal `x`.
+- Define commensurate surreals and prove properties relating to `ω^ x`.
+- Define the normal form of a surreal number.
+-/
+
+open Set
+
+-- TOOD: upstream
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Pow.lean]:
```suggestion
-- TODO: upstream
```
